US06828330B2
A solution of 2-aminothiophenol (10.7 mL, 0.1 mol) in diethyl oxalate (27.3 mL, 0.2 mol) is heated at reflux for 4 hr. The solution is cooled to rt and poured into a solution consisting of water (150 mL), conc. HCl (50 mL) and 95% EtOH (70 mL). With stirring, the oil dissolved and a solid formed. The solution is cooled in an ice bath, the solid is collected by vacuum filtration and the solids are washed with a solution consisting of EtOH/water (25/75) to afford a dark solid. This material is purified by crystallization from hot (68° C.) ligroin to yield ethyl 2-benzothiazolecarboxylate (7.5 g, 36%). Elemental analysis for C10H9NO2S: Calc: C, 57.95; H, 4.38; N, 6.76. Found: C, 57.99; H, 4.28; N, 6.78.

reactant | 2-aminothiophenol | 0.1 mol, 10.7 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | diethyl oxalate | 0.2 mol, 27.3 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | water | 150 mL | O | H2O
reactant | HCl | 50 mL | Cl | ClH
solvent | EtOH | 70 mL | CCO | C2H6O
product | ethyl 2-benzothiazolecarboxylate | 7.5 g, 36% | S1C(=NC2=C1C=CC=C2)C(=O)OCC | C10H9NO2S
